US04710583
Preparation of Methyl Benzoylacetate
A 1-L flask fitted with a mechanical stirrer, reflux condenser, and nitrogen sweep (to protect the Na), was immersed in a water bath to control temperature (i.e., to provide heat and to cool if need be). In the flask was placed 272.3 g (2 moles) of methyl benzoate; 74.1 g (1 mole) of methyl acetate; 1 gm. atom--23 g., Na; and 32 g (1 mole) of methanol (to react with the Na and to initate the reaction). The flask was purged with nitrogen and was maintained under a positive nitrogen pressure throughout the reaction. The solution was heated to 80°-85° C. overnight, during which time all the Na metal was consumed. The resulting yellow heterogeneous solution was cooled to room temperature and poured into a separatory funnel containing 130 ml of concentrated hydrochloric acid and 200 g. of crushed ice. This was shaken and the lower aqueous phase removed. (In this step the Na in the Na methyl benzoyl acetate reacts with the HC1 and is removed as NaCl.) The residual material was then washed with water, 2×100 mls, saturated NaHCO3 solution, 2×100 mls. and finally 2×100 mls of saturated brine (NaCl). (Byproduct methanol leaves with the water in the water washes). The residual yellow organic phase was then transferred to a distilling flask and fractionated through a 12-inch Vigreux column at 0.5 mm Hg pressure. A forerum containing methyl benzoate and methyl acetoacetate was collected at 37°-42° C. at 0.5 mm Hg. This was followed by a fraction of 82.5 methyl benzoyl acetate boiling at 81°-84° C. at 0.5 mm Hg. Yield of the pure product methyl benzoyl acetate based on Na was 46.3%, as a water white liquid.

reactant | methyl benzoate | 2 moles, 272.3 g | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | methyl acetate | 1 mole, 74.1 g | C(C)(=O)OC | C3H6O2
reactant | methanol | 1 mole, 32 g | CO | CH4O
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
product | Methyl Benzoylacetate | C(C1=CC=CC=C1)(=O)CC(=O)OC | C10H10O3
